* FQP33N10 100V N-CHANNEL DMOSFET ELECTRICAL PARAMETERS
*------------------------------------------------------------------------------------
.SUBCKT  FQP33N10  20  10  30
Rg      10   1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={3.88*{-0.00063*TEMP+1.01575}}  KP={26.6*{-0.000082*TEMP+1.00205}}
+ THETA=0.056  VMAX=0.92E5  LEVEL=3) 
Cgs     1    3    1088p
Rd      20   4    24m      TC=0.0087
Dds     3    4    DDS
.MODEL     DDS    D(BV={100*{0.001*TEMP+0.975}}  M=0.5    CJO=258p    VJ=0.8)
Dbody   3    20   DBODY
.MODEL   DBODY    D(IS=2.5E-12   N=1.0   RS=3.6m   EG=1.14   TT=80n)
Ra      4    2    8m       TC=0.0087
Rs      3    5    0.8m    
Ls      5    30   2.6n
M2      1    8    6    6   INTER
E2      8    6    4    1    2
.MODEL   INTER    NMOS(VTO=0     KP=10     LEVEL=1)
Cgdmax  7    4    2075p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.76     CJO=2075p     VJ=0.45)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FQP33N10
*------------------------------------------------------------------------------------
* FAIRCHILD     CASE: TO-220      PID: FQP33N10
* MAY-11-2001 CREATION 
